US06410566B1
To a mixture of 4-carboxy-1-(4-chlorobenzyl)pyrrolidin-2-one (5.05 g, 20 mmol), EDCI (2.85 g, 22 mmol), HOBt (2.97 g, 22 mmol) and dichloromethane (100 mL) was added 0.5 Mammonia in dioxane (60 mL, 30 mmol). The reaction mixture was stirred at room temperature for 15 h and washed with 2 N HCl (3 times) and 2 N NaOH aqueous solution (100 mL×4). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 3-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one (1.49 g) as a colorless solid.

reactant | 4-carboxy-1-(4-chlorobenzyl)pyrrolidin-2-one | 20 mmol, 5.05 g | C(=O)(O)C1CC(N(C1)CC1=CC=C(C=C1)Cl)=O | C12H12ClNO3
reactant | EDCI | 22 mmol, 2.85 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 22 mmol, 2.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dioxane | 30 mmol, 60 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one | 1.49 g | C(N)(=O)C1C(N(CC1)CC1=CC=C(C=C1)Cl)=O | C12H13ClN2O2
